US04898930
Benzyloxycarbonylglycyl-prolyl-alanine methyl ester
To a solution of benzyloxycarbonylglycyl-proline pentachlorophenyl ester (5.55 g, 10 mmoles) in dimethylformamide (30 ml) was added alanine methyl ester liberated from its hydrochloride (1.4 g, 10 mmoles) with N-ethylpiperidine (1.4 ml). After 5 hours of a stirring and 12 hours of standing at room temperature the solution was evaporated, the residue was taken into ethyl acetate and the organic phase was washed successively with 1M hydrochloric acid, water, 5% sodium hydrogencarbonate and water, dried over anhydrous sodium sulfate and evaporated. The residue was crystallized from ethyl acetate-petroleum ether to give 1.95 g (50%) of the title product, m.p. 103° to 106° C. An analytical sample was recrystallized similarly, m.p. 105° to 108° C. [α]D20 -100.1° (c 0.2, MeOH).

reactant | benzyloxycarbonylglycyl-proline pentachlorophenyl ester | 10 mmoles, 5.55 g | ClC1=C(C(=C(C(=C1OC([C@H]1N(CCC1)C(CNC(=O)OCC1=CC=CC=C1)=O)=O)Cl)Cl)Cl)Cl | C21H17Cl5N2O5
reactant | alanine methyl ester | COC([C@@H](N)C)=O | C4H9NO2
reactant | hydrochloride | 10 mmoles, 1.4 g | Cl | ClH
reactant | N-ethylpiperidine | 1.4 ml | C(C)N1CCCCC1 | C7H15N
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Benzyloxycarbonylglycyl-prolyl-alanine methyl ester | 1.95 g, 50% | COC([C@@H](NC([C@H]1N(CCC1)C(CNC(=O)OCC1=CC=CC=C1)=O)=O)C)=O | C19H25N3O6
